US04748186
In a manner similar to Example 9, Step (a), 2-amino-4,5-dimethyloxazole (3.0 grams, 0.027 mole), carbon disulfide (2.67 grams, 0.035 mole), triethylamine (3.44 grams, 0.34 mole), dimethyl sulfoxide (13.5 ml) and 4-bromo-1,1,2-trifluoro-1-butene (6.43 grams, 0.034 mole) were reacted to produce 2.78 grams of (3,4,4-trifluoro-3-butenyl) N-(4,5-dimethyl-2-oxazolyl)dithiocarbamate. The NMR spectrum was consistent with the proposed structure.

reactant | 2-amino-4,5-dimethyloxazole | 0.027 mole, 3.0 grams | NC=1OC(=C(N1)C)C | C5H8N2O
reactant | carbon disulfide | 0.035 mole, 2.67 grams | C(=S)=S | CS2
reactant | triethylamine | 0.34 mole, 3.44 grams | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.034 mole, 6.43 grams | BrCCC(=C(F)F)F | C4H4BrF3
solvent | dimethyl sulfoxide | 13.5 ml | CS(=O)C | C2H6OS
product | (3,4,4-trifluoro-3-butenyl) N-(4,5-dimethyl-2-oxazolyl)dithiocarbamate | 2.78 grams | CC=1N=C(OC1C)NC(SCCC(=C(F)F)F)=S | C10H11F3N2OS2
